US07820823B2
N-[(5S)-2-oxo-3-(6-piperazin-1-yl-pyridin-3-yl)-oxazolidin-5-ylmethyl]-acetamide
0.54 g of 4-{5-[(5S)-5-(acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester (1.28 mmol) was dissolved in a 1.25 M HCl solution in methanol. The solution was stirred and the reaction monitored by TLC. The methanol was evaporated, the residue dissolved in water, neutralized with sodium bicarbonate and the water evaporated to dryness. The residue was digested in a 9/1 dichloromethane/methanol. The insoluble salt was filtered off, the filtrate evaporated to dryness to leave a pale brown solid.

reactant | 4-{5-[(5S)-5-(acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | 1.28 mmol, 0.54 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C20H29N5O5
solvent | HCl | 1.25 M | Cl | ClH
solvent | methanol | CO | CH4O
product | N-[(5S)-2-oxo-3-(6-piperazin-1-yl-pyridin-3-yl)-oxazolidin-5-ylmethyl]-acetamide | O=C1O[C@H](CN1C=1C=NC(=CC1)N1CCNCC1)CNC(C)=O | C15H21N5O3
